US04551465
1-[3-[4-[1-(4-Chlorophenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine
To a Grignard reactant prepared from 1.82 g. of magnesium turnings and 22.3 g. of 4-[3-(piperidin-1-yl)-propoxy]-bromophenol in 100 ml. of dry tetrahydrofuran a solution of 8.4 g. of p-chloropropiophenone in 30 ml. of tetrahydrofuran is added dropwise, under slight reflux. The reaction mixture is slightly boiled for an additional hour, whereupon it is cooled and decomposed with a saturated aqueous ammonium chloride solution. The aqueous phase is extracted with tetrahydrofuran, the tetrahydrofuran phase is washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo. Crystallization of the residue from a mixture of n-hexane and ethyl acetate yields 12.2 g. of the named compound, melting at 104° to 105° C.

reactant | magnesium | [Mg] | Mg
reactant | 4-[3-(piperidin-1-yl)-propoxy]-bromophenol | N1(CCCCC1)CCCOC1=CC(=C(C=C1)O)Br | C14H20BrNO2
reactant | p-chloropropiophenone | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[3-[4-[1-(4-Chlorophenyl)-1-hydroxypropyl]-phenoxy]-propyl]-piperidine | ClC1=CC=C(C=C1)C(CC)(O)C1=CC=C(OCCCN2CCCCC2)C=C1 | C23H30ClNO2
